US08258135B2
3-Bromo-2-methylpyridine (10.0 g, 58.1 mmol), diphenylperoxyanhydride (2.82 g, 11.6 mmol), 1-bromopyrrolidine-2,5-dione (10.9 g, 61.0 mmol) were refluxed in 233 mL of carbon tetrachloride for 144 hours. The reaction mixture was cooled to ambient temperature and washed with water (3×200 mL). The organic layer was dried over Na2SO4, filtered, concentrated, and purified by silica gel chromatography eluting with 0-30% EtOAc in hexanes to provide 3-bromo-2-(bromomethyl)pyridine.

reactant | 3-Bromo-2-methylpyridine | 58.1 mmol, 10.0 g | BrC=1C(=NC=CC1)C | C6H6BrN
reactant | 1-bromopyrrolidine-2,5-dione | 61.0 mmol, 10.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 233 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromo-2-(bromomethyl)pyridine | BrC=1C(=NC=CC1)CBr | C6H5Br2N
